US09102591B2
4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexanecarbonitrile
To a stirred suspension of diethylamino difluorosulfiinium tetrafluoroborate salt (23.8 g, 0.104 mol) in dry DCM (100 mL) at room temperature was added 1-(6-fluoro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile (12 g, 0.052 mol) followed by triethylamine trihydrofluoride (25.12 g, 0.156 mol) under a nitrogen atmosphere. The reaction mixture was stirred overnight at room temperature. The resulting mixture was then quenched with saturated aq. NaHCO3 solution (300 mL), stirred for 10 minutes, and the resulting mixture was extracted with DCM (3×100 mL). The combined organic layer was washed with brine, dried over sodium sulphate, filtered and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (eluting with a gradient elution of between 2-10% EtOAc in petroleum ether) to afford the title compound (8 g, yield: 64%). 1H NMR (CDCl3 400 MHz): 6 ppm 8.40-8.35 (m, 1H), 7.95-7.84 (m, 1H), 7.05-6.96 (m, 1H), 2.40-2.10 (m, 8H).

reactant | 1-(6-fluoro-pyridin-3-yl)-4-oxo-cyclohexanecarbonitrile | 0.052 mol, 12 g | FC1=CC=C(C=N1)C1(CCC(CC1)=O)C#N | C12H11FN2O
reactant | triethylamine trihydrofluoride | 0.156 mol, 25.12 g | F.F.F.C(C)N(CC)CC
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4,4-Difluoro-1-(6-fluoro-pyridin-3-yl)-cyclohexanecarbonitrile | 8 g, yield: 64% | FC1(CCC(CC1)(C#N)C=1C=NC(=CC1)F)F | C12H11F3N2
